US07557213B2
Preparation of 1-(3-Bromo-benzyl)-3-(2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-1H-quinolin-4-one (70 mg, 0.228 mmol) and 74 mg (0.296 mmol) of 1-Bromo-3-bromomethyl-benzene, to give 25 mg of desired compound. LCMS (M+H)+: 476.

reactant | 3-(2,3-Dihydro-benzo[1,4]dioxine-6-carbonyl)-1H-quinolin-4-one | 0.228 mmol, 70 mg | O1CCOC2=C1C=CC(=C2)C(=O)C2=CNC1=CC=CC=C1C2=O | C18H13NO4
reactant | 1-Bromo-3-bromomethyl-benzene | 0.296 mmol, 74 mg | BrC1=CC(=CC=C1)CBr | C7H6Br2
product | 1-(3-Bromo-benzyl)-3-(2,3-dihydro-benzo[1,4]dioxine-6-carbonyl)-1H-quinolin-4-one | 25 mg | BrC=1C=C(CN2C=C(C(C3=CC=CC=C23)=O)C(=O)C2=CC3=C(OCCO3)C=C2)C=CC1 | C25H18BrNO4
